US08119633B2
2-(Piperidin-2-yl)acetic acid
A solution of chromium trioxide (20 g, 200 mmol) in water (300 ml) and concentrated sulfuric acid (40 g, 73.6 ml) was added dropwise in the course of 1.5 h, while cooling with ice, to a solution of 2-piperidineethanol (10.0 g, 10.1 ml, 77.4 mmol) in water (10 ml). The reaction mixture was stirred for 3 h at room temperature. The solution was then rendered alkaline with saturated aqueous barium hydroxide solution. Carbon dioxide was then passed into the solution, and the resulting suspension was filtered through Celite. The filtrate was concentrated in vacuo.

reactant | sulfuric acid | 73.6 ml, 40 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-piperidineethanol | 77.4 mmol, 10.1 ml, 10.0 g | N1C(CCCC1)CCO | C7H15NO
reactant | barium hydroxide | [OH-].[Ba+2].[OH-]
reactant | Carbon dioxide | C(=O)=O | CO2
solvent | water | 300 ml | O | H2O
solvent | water | 10 ml | O | H2O
catalyst | chromium trioxide | 200 mmol, 20 g | [O-2].[O-2].[O-2].[Cr+6]
product | 2-(Piperidin-2-yl)acetic acid | N1C(CCCC1)CC(=O)O | C7H13NO2
